US07321041B2
5-Chloro-7-(4-methoxyphenyl)-[1,6]naphthyridine (Method B)
7-(4-Methoxyphenyl)-[1,6]naphthyridin-5-ol (13 g) and POCl3 (275 mL) was heated to 135° C. for 26 hours in a sealed tube. The mixture was cooled and the POCl3 was evaporated. The residue was poured onto ice and neutralized with 2M Na2CO3 and the precipitate was filtered and washed with H2O to yield 13.8 g of the title compound (98.5%), mp 126-127° C.

reactant | 7-(4-Methoxyphenyl)-[1,6]naphthyridin-5-ol | 13 g | COC1=CC=C(C=C1)C=1N=C(C=2C=CC=NC2C1)O | C15H12N2O2
reactant | POCl3 | 275 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 5-Chloro-7-(4-methoxyphenyl)-[1,6]naphthyridine | 13.8 g, 98.5% | ClC1=C2C=CC=NC2=CC(=N1)C1=CC=C(C=C1)OC | C15H11ClN2O
